US09340546B2
Step 2: 5-fluoro-4-((1-methylpiperidin-4-yl)oxy)pyridin-3-amine
A solution of 2-bromo-5-fluoro-4-[(1-methyl-4-piperidyl)oxy]-3-nitro-pyridine (96 mg, 0.2873 mmol), ZnBr2 (12.94 mg, 3.080 μL, 0.05746 mmol) and Pd on C, wet, Degussa (31 mg) in methanol (5 mL) was flushed with hydrogen and evacuated (3×) and then stirred under a hydrogen atmosphere overnight. The catalyst was filtered off through a celite pad and washed with methanol and ethyl acetate mixtures and the filtrate was concentrated in vacuo to leave a pale yellow oil that was used in next step without further purification. MS (ES+) 226.1.

reactant | 2-bromo-5-fluoro-4-[(1-methyl-4-piperidyl)oxy]-3-nitro-pyridine | 0.2873 mmol, 96 mg | BrC1=NC=C(C(=C1[N+](=O)[O-])OC1CCN(CC1)C)F | C11H13BrFN3O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | ZnBr2 | 0.05746 mmol, 3.080 μL, 12.94 mg | [Zn+2].[Br-].[Br-]
catalyst | Pd | [Pd] | Pd
product | 5-fluoro-4-((1-methylpiperidin-4-yl)oxy)pyridin-3-amine | FC=1C(=C(C=NC1)N)OC1CCN(CC1)C | C11H16FN3O
